US05712267
50(i) (2S,4S)-4-(4-Methoxybenzylthio)-2-[4-(4-nitrobenzyloxycarbonylmethyl) -1-homopiperazinylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
3.5 g of N,N'-carbonyldiimidazole were added to a solution of 8.0 g of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid in 80 ml of dry acetonitrile, and the resulting mixture was stirred at room temperature for 30 minutes. A solution of 14.0 g of 1-(4-nitrobenzyloxycarbonylmethyl)homopiperazine bis(trifluoroacetate) in 80 ml of dry acetonitrile and 14.1 ml of diisopropylethylamine were added, whilst ice-cooling, to the mixture, and the resulting mixture was stirred at room temperature for 1.5 hours and then at 30° C. for a further 1.5 hours, after which it was allowed to stand overnight at room temperature. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and the resulting residue was diluted with ethyl acetate. The dilute solution was washed with water and with an aqueous solution of sodium chloride, in that order, and it was then dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel (Merck Art 9385), using ethyl acetate as the eluent, to give 7.6 g of the title compound as an amorphous solid.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid | 8.0 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | 1-(4-nitrobenzyloxycarbonylmethyl)homopiperazine bis(trifluoroacetate) | 14.0 g | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.[N+](=O)([O-])C1=CC=C(COC(=O)CN2CCNCCC2)C=C1
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
solvent | diisopropylethylamine | 14.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | (2S,4S)-4-(4-Methoxybenzylthio)-2-[4-(4-nitrobenzyloxycarbonylmethyl) -1-homopiperazinylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 7.6 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N2CCN(CCC2)CC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C35H39N5O10S
